US05114903
4,4-bis(4-hydroxyphenyl)-heptane;
2,2-bis(4-hydroxyphenyl)-1-phenylpropane; 2,2-bis(4-hydroxyphenyl)butane;

reactant | 2,2-bis(4-hydroxyphenyl)-1-phenylpropane | OC1=CC=C(C=C1)C(CC1=CC=CC=C1)(C)C1=CC=C(C=C1)O | C21H20O2
reactant | 2,2-bis(4-hydroxyphenyl)butane | OC1=CC=C(C=C1)C(C)(CC)C1=CC=C(C=C1)O | C16H18O2
product | 4,4-bis(4-hydroxyphenyl)-heptane | OC1=CC=C(C=C1)C(CCC)(CCC)C1=CC=C(C=C1)O | C19H24O2
